US04279771
Following step (4) of the reaction system, 20.5 g (0.15 mol) of a commercial grade n-propylphenol was dissolved in 100 ml of glacial acetic acid and heated to 40° C. with 24.5 g (0.153 mol) of bromine dissolved in 50 ml of glacial acetic acid. The mixture was stirred and heated at 60° C. for 4 hours. After the reaction was complete, the acetic acid was removed by distillation and the remaining liquid was distilled under reduced pressure to yield 2 mmHg of 2-bromo-4-n-propylphenol having a boiling point of 73° to 76° C. The 2-bromo-4-n-propylphenol was cyanized in accordance with step (5) as in Example 1 to yield 2 mmHg of 2-cyano-4-n-propylphenol (hereinafter referred to as material G) having a boiling point of 110° C. Materials F and G are esterified in accordance with step (6) as in Example 1 to yield the desired (2'-cyano-4'-propyl) phenol-3-chloro-4-n-heptyloxybenzoate. The benzoate had a melting point of 43.5° C. and an infrared absorption spectrum as illustrated in FIG. 10.

reactant | n-propylphenol | C(CC)C1=C(C=CC=C1)O | C9H12O
reactant | bromine | 0.153 mol, 24.5 g | BrBr | Br2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-4-n-propylphenol | BrC1=C(C=CC(=C1)CCC)O | C9H11BrO
